US08049016B2
Synthesis of (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide
Following the procedure as described in Example 1, making variations as required to replace 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid with (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a colorless solid: mp 197-198° C.; 1H NMR (300 MHz, DMSO-d6) δ 7.37-7.17 (m, 6H), 4.57-4.51 (m, 1H), 4.42 (d, J=5.4 Hz, 2H), 3.60 (dd, J=9.0, 9.0 Hz, 1H), 3.03 (dd, J=9.0, 3.4 Hz, 1H), 2.46 (s, 3H), 1.38 (d, J=6.2 Hz, 3H); MS (ES+) m/z 348.9 (M+1).

reactant | 2-(1-(4-fluorobenzyl)-5-oxo-1H-1,2,4-triazol-4(5H)-yl)-4-methyl-thiazole-5-carboxylic acid | FC1=CC=C(CN2N=CN(C2=O)C=2SC(=C(N2)C)C(=O)O)C=C1 | C14H11FN4O3S
reactant | (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | FC1=CC=C(CN2C(N([C@H](C2)C)C=2SC(=C(N2)C)C(=O)O)=O)C=C1 | C16H16FN3O3S
product | (S)-2-(3-(4-fluorobenzyl)-5-methyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxamide | FC1=CC=C(CN2C(N([C@H](C2)C)C=2SC(=C(N2)C)C(=O)N)=O)C=C1 | C16H17FN4O2S
